US08492371B2
5-(2,2,3,3-tetrafluoro-1-methylcyclobutyl)-1,3,4-thiadiazol-2-amine
A mixture of 2,2,3,3-tetrafluoro-1-methylcyclobutanecarbonyl chloride (ABCR) (2 g, 9.78 mmol) and thiosemicarbazide (Aldrich) (0.891 g, 9.78 mmol) in 10 mL of dioxane was heated at 90° C. for 12 h. The solvent was evaporated under reduced pressure. The residue was dissolved in dichloromethane and washed with saturated NaHCO3. The organic extract was dried over Na2SO4 and concentrated. The residue was purified by flash chromatography on SiO2 (2% methanol in dichloromethane) to give the title compound. MS (ESI+) m/z 242 (M+H)+.

reactant | 2,2,3,3-tetrafluoro-1-methylcyclobutanecarbonyl chloride | 9.78 mmol, 2 g | FC1(C(CC1(F)F)(C(=O)Cl)C)F | C6H5ClF4O
reactant | thiosemicarbazide | 9.78 mmol, 0.891 g | NNC(=S)N | CH5N3S
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 5-(2,2,3,3-tetrafluoro-1-methylcyclobutyl)-1,3,4-thiadiazol-2-amine | FC1(C(CC1(F)F)(C)C1=NN=C(S1)N)F | C7H7F4N3S
